US07282507B2
2-(5-Chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(4-fluoro-benzenesulfonyl) -propan-2-ol
To a solution of 2-(5-chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(4-fluoro -phenylsulfanyl)-propan-2-ol (0.42 g, 1.04 mmol) in dichloromethane (10 mL) was added water (10 mL). The solution was stirred rapidly and tetrabutylammonium hydrogensulfate (12 mg, 0.035 mmol) was added followed by OXONE® (1.02 g, 1.66 mmol). The reaction mixture turned bright yellow and was allowed to proceed overnight at room temperature. The reaction mixture was diluted with water and dichloromethane, the layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with water, twice with 10% sodium thiosulfate soluton and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated and pre-absorbed onto silica gel and purified by column chromatography eluting with 80% diethyl ether/pentane to yield the title product as a solid.

reactant | 2-(5-chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(4-fluoro -phenylsulfanyl)-propan-2-ol | 1.04 mmol, 0.42 g | ClC=1C=C2C=C(NC2=CC1C(F)(F)F)C(CSC1=CC=C(C=C1)F)(C)O | C18H14ClF4NOS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | water | O | H2O
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogensulfate | 0.035 mmol, 12 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(5-Chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(4-fluoro-benzenesulfonyl) -propan-2-ol | ClC=1C=C2C=C(NC2=CC1C(F)(F)F)C(CS(=O)(=O)C1=CC=C(C=C1)F)(C)O | C18H14ClF4NO3S
